US08071586B2
The title compound, m/e=444.3, was produced in analogy with intermediate 16, steps A to D. Thus, (R)-2-amino-4-phenylbutan-1-ol was elaborated to (2-benzyloxycarbamoyl-ethyl)-((R)-2-hydroxy-1-phenethyl-ethyl)-carbamic acid tert-butyl ester in step A, then cyclized in step B, leading to (R)-4-benzyloxy-5-oxo-2-phenethyl-[1,4]diazepane-1-carboxylic acid tert-butyl ester. Hydrogenation in step C gave (R)-5-oxo-2-phenethyl-[1,4]diazepane-1-carboxylic acid tert-butyl ester, which was alkylated with 1-(3-chloropropyl)piperidine in step D.

reactant | (R)-2-amino-4-phenylbutan-1-ol | N[C@@H](CO)CCC1=CC=CC=C1 | C10H15NO
reactant | (2-benzyloxycarbamoyl-ethyl)-((R)-2-hydroxy-1-phenethyl-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N([C@@H](CO)CCC1=CC=CC=C1)CCC(NOCC1=CC=CC=C1)=O)=O | C25H34N2O5
reactant | (R)-4-benzyloxy-5-oxo-2-phenethyl-[1,4]diazepane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CN(C(CC1)=O)OCC1=CC=CC=C1)CCC1=CC=CC=C1 | C25H32N2O4
product | (R)-5-oxo-2-phenethyl-[1,4]diazepane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CNC(CC1)=O)CCC1=CC=CC=C1 | C18H26N2O3
